US09102614B2
Preparation of 6-chloro-7-fluoro-3-methylnaphthalen-1-ol:
A solution of ethyl 4-(3-chloro-4-fluorophenyl)-3-methylbut-2-enoate (9.7 g, 37.8 mmol) in concentrated sulfuric acid (40 mL) was stirred at 50° C. overnight. The reaction mixture was poured onto ice and diluted with water and extracted with ethyl acetate. The organic layer was concentrated and purified by flash column chromatography (silica gel, ethyl acetate/hexanes) to give a pale yellow solid (1.57 g). 1H-NMR: 400 MHz, (CDCl3) δ: 7.83 (d, J=10.4 Hz, 1H), 7.75 (d, J=7.2 Hz, 1H), 7.11 (s, 1H), 6.67 (s, 1H), 2.42 (s, 3H).

reactant | ethyl 4-(3-chloro-4-fluorophenyl)-3-methylbut-2-enoate | 37.8 mmol, 9.7 g | ClC=1C=C(C=CC1F)CC(=CC(=O)OCC)C | C13H14ClFO2
solvent | sulfuric acid | 40 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 6-chloro-7-fluoro-3-methylnaphthalen-1-ol | 1.57 g | ClC=1C=C2C=C(C=C(C2=CC1F)O)C | C11H8ClFO
